US05049669
Mercuric acetate (0.668 g) is added with stirring to a suspension of N-(3-methylbutyl)-10-[(2RS)-1-(1-pyrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide hydrochloride (1 g) in acetic acid (20 cc), and the mixture is left to react for 5 hours 30 minutes at a temperature in the region of 20° C. The reaction mixture is diluted with ethyl acetate (150 cc) and distilled water (50 cc) and then treated with caustic soda (d=1.33) to pH 13. The organic phase is separated and the aqueous phase is extracted again with ethyl acetate (2×50 cc). The combined organic phases are washed with saturated aqueous sodium hydrogen carbonate solution (100 cc) and then with saturated aqueous sodium chloride solution (100 cc), dried over magnesium sulphate, filtered and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual yellow oil (0.53 g) is purified by chromatography on a column (height: 30 cm; diameter: 2.5 cm) of silica gel (0.04-0.063 mm) under a slight excess pressure of nitrogen (40 kPa), eluting successively with a mixture (97.5:2.5 by volume) (100 cc) of methylene chloride and methanol and then with a mixture (95:5 by volume) (200 cc) of methylene chloride and methanol and collecting 15-cc fractions. Fractions 12 to 34 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The oil obtained is dissolved in ethyl acetate (10 cc) and a 3N solution (0.5 cc) of hydrochloric acid in ethyl ether is added. The solid formed is drained, washed with ethyl ether (2×2 cc) and dried under reduced pressure (5 mm Hg; 0.7 kPa) at 40° C. N-(3-Methylbutyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride (0.37 g) is thereby obtained in the form of a pale yellow solid, m.p. about 100° C. (melts forming a paste), the NMR spectrum of which is identical to that of the product described below in Example 26.

reactant | N-(3-methylbutyl)-10-[(2RS)-1-(1-pyrolidinyl)-2-propyl]-2-phenothiazinecarbothioamide hydrochloride | 1 g | Cl.CC(CCNC(=S)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C)C
reactant | hydrochloric acid | Cl | ClH
reactant | acetic acid | 20 cc | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 150 cc | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 10 cc | C(C)(=O)OCC | C4H8O2
solvent | ethyl ether | C(C)OCC | C4H10O
product | N-(3-Methylbutyl)-10-[(2RS)-1-(1-pyrrolidinyl)-2-propyl]-2-phenothiazinecarboxamide hydrochloride | 0.37 g | Cl.CC(CCNC(=O)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN1CCCC1)C)C | InChI=1S/C25H33N3OS.ClH/c1-18(2)12-13-26-25(29)20-10-11-24-22(16-20)28(19(3)17-27-14-6-7-15-27)21-8-4-5-9-23(21)30-24;/h4-5,8-11,16,18-19H,6-7,12-15,17H2,1-3H3,(H,26,29);1H
